US03941821
A mixture of 0.2 moles of sodium dithioacetate and 38 g. (0.12 moles) of ethyl α, 2'-dichloro-4-biphenylylacetate in 300 ml. of absolute ethanol is stirred at room temperature for 15 hours. The reaction mixture is filtered, washed with absolute ethanol and evaporated to dryness in vacuo. The residue is treated with ether, filtered and evaporated to dryness to obtain ethyl α-thioacetylthio-2'-chloro-4-biphenylylacetate.

reactant | sodium dithioacetate | 0.2 moles | C(C)(=S)[S-].[Na+]
reactant | ethyl α, 2'-dichloro-4-biphenylylacetate | 0.12 moles | ClC(C(=O)OCC)C1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C16H14Cl2O2
solvent | ethanol | C(C)O | C2H6O
product | ethyl α-thioacetylthio-2'-chloro-4-biphenylylacetate | C(C)(=S)SC(C(=O)OCC)C1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C18H17ClO2S2
